US09056859B2
To a DCM (20 mL) solution of tert-butyl 3-bromo-5-(hydroxymethyl)benzoate (1.2 g, 4.2 mmol) was added methanesulfonyl chloride (0.62 g, 5.5 mmol) and triethylamine (1.2 mL, 8.4 mmol) at 0° C. The mixture was allowed to stir for 16 hours. TLC showed clean conversion. The reaction was diluted with DCM (100 mL), washed with 0.1 N HCl (100 mL) and brine, dried over sodium sulfate, and concentrated to afford tert-butyl 3-bromo-5-{[(methylsulfonyl)oxy]methyl}benzoate as a light yellow oil, which was used without further purification.

reactant | tert-butyl 3-bromo-5-(hydroxymethyl)benzoate | 4.2 mmol, 1.2 g | BrC=1C=C(C(=O)OC(C)(C)C)C=C(C1)CO | C12H15BrO3
reactant | methanesulfonyl chloride | 5.5 mmol, 0.62 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 8.4 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-bromo-5-{[(methylsulfonyl)oxy]methyl}benzoate | BrC=1C=C(C(=O)OC(C)(C)C)C=C(C1)COS(=O)(=O)C | C13H17BrO5S
